US08404736B2
4-(1-{[4-(4-Trifluoromethyl-benzyl)-4H-thieno[3,2-b]pyrrole-3-carbonyl]-amino}-cyclopropyl)-benzoic acid
A mixture of 0.33 g of 4-(4-Trifluoromethyl-benzyl)-4H-thieno[3,2-b]pyrrole-3-carboxylic acid, 0.23 g of 4-(1-amino-cyclopropyl)-benzoic acid methyl ester, 0.5 g of HATU and 0.25 ml of Pr2NEt in 8 ml of DMF was stirred at room temperature for 16 h. The reaction was then diluted with 30 ml of water and extracted with 100 ml of EtOAc. The organic layer was washed with 50 ml of water and 50 ml of brine and dried over Na2SO4. The extract was filtered, and concentrated to give the crude methyl ester which was dissolved in 20 ml of 1:1 THF/MeOH and treated with 10 ml of 0.5 N aqueous LiOH solution. After stirring for 15 h at room temperature, 1 ml of AcOH was added and the reaction mixture was extracted with 75 ml of EtOAc. The organic layer was washed with 50 ml of brine, dried over Na2SO4. The extract was filtered and concentrated to give 0.22 g of the title compound as a light brown solid.

reactant | 4-(4-Trifluoromethyl-benzyl)-4H-thieno[3,2-b]pyrrole-3-carboxylic acid | 0.33 g | FC(C1=CC=C(CN2C3=C(C=C2)SC=C3C(=O)O)C=C1)(F)F | C15H10F3NO2S
reactant | 4-(1-amino-cyclopropyl)-benzoic acid methyl ester | 0.23 g | COC(C1=CC=C(C=C1)C1(CC1)N)=O | C11H13NO2
reactant | HATU | 0.5 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Pr2NEt | 0.25 ml | N(CCC)(CCC)CC | C8H19N
reactant | LiOH | 0.5 N, 10 ml | [Li+].[OH-]
solvent | DMF | 8 ml | CN(C)C=O | C3H7NO
solvent | water | 30 ml | O | H2O
solvent | THF MeOH | 20 ml | C1CCOC1.CO
solvent | AcOH | 1 ml | CC(=O)O | C2H4O2
product | 4-(1-{[4-(4-Trifluoromethyl-benzyl)-4H-thieno[3,2-b]pyrrole-3-carbonyl]-amino}-cyclopropyl)-benzoic acid | 0.22 g | FC(C1=CC=C(CN2C3=C(C=C2)SC=C3C(=O)NC3(CC3)C3=CC=C(C(=O)O)C=C3)C=C1)(F)F | C25H19F3N2O3S
